calculator
S13 16 20 control_S13 0 generic_switch OFF
VS13 control_S13 0 DC 0
S34 13 17 control_S34 0 generic_switch OFF
VS34 control_S34 0 DC 0
R9 34 5 4.7k
S17 12 20 control_S17 0 generic_switch OFF
VS17 control_S17 0 DC 0
S12 11 21 control_S12 0 generic_switch OFF
VS12 control_S12 0 DC 0
S21 14 19 control_S21 0 generic_switch OFF
VS21 control_S21 0 DC 0
S29 12 18 control_S29 0 generic_switch OFF
VS29 control_S29 0 DC 0
S14 15 20 control_S14 0 generic_switch OFF
VS14 control_S14 0 DC 0
S35 12 17 control_S35 0 generic_switch OFF
VS35 control_S35 0 DC 0
S30 11 18 control_S30 0 generic_switch OFF
VS30 control_S30 0 DC 0
S32 15 17 control_S32 0 generic_switch OFF
VS32 control_S32 0 DC 0
R10 35 5 4.7k
S15 14 20 control_S15 0 generic_switch OFF
VS15 control_S15 0 DC 0
S8 15 21 control_S8 0 generic_switch OFF
VS8 control_S8 0 DC 0
S4 13 22 control_S4 0 generic_switch OFF
VS4 control_S4 0 DC 0
S2 15 22 control_S2 0 generic_switch OFF
VS2 control_S2 0 DC 0
S24 11 19 control_S24 0 generic_switch OFF
VS24 control_S24 0 DC 0
S25 16 18 control_S25 0 generic_switch OFF
VS25 control_S25 0 DC 0
S7 16 21 control_S7 0 generic_switch OFF
VS7 control_S7 0 DC 0
S16 13 20 control_S16 0 generic_switch OFF
VS16 control_S16 0 DC 0
R8 34 33 330
S18 11 20 control_S18 0 generic_switch OFF
VS18 control_S18 0 DC 0
S6 11 22 control_S6 0 generic_switch OFF
VS6 control_S6 0 DC 0
S33 14 17 control_S33 0 generic_switch OFF
VS33 control_S33 0 DC 0
S1 16 22 control_S1 0 generic_switch OFF
VS1 control_S1 0 DC 0
S31 16 17 control_S31 0 generic_switch OFF
VS31 control_S31 0 DC 0
S27 14 18 control_S27 0 generic_switch OFF
VS27 control_S27 0 DC 0
S28 13 18 control_S28 0 generic_switch OFF
VS28 control_S28 0 DC 0
S23 12 19 control_S23 0 generic_switch OFF
VS23 control_S23 0 DC 0
S3 14 22 control_S3 0 generic_switch OFF
VS3 control_S3 0 DC 0
S36 11 17 control_S36 0 generic_switch OFF
VS36 control_S36 0 DC 0
S19 16 19 control_S19 0 generic_switch OFF
VS19 control_S19 0 DC 0
S26 15 18 control_S26 0 generic_switch OFF
VS26 control_S26 0 DC 0
S5 12 22 control_S5 0 generic_switch OFF
VS5 control_S5 0 DC 0
S10 13 21 control_S10 0 generic_switch OFF
VS10 control_S10 0 DC 0
S22 13 19 control_S22 0 generic_switch OFF
VS22 control_S22 0 DC 0
S11 12 21 control_S11 0 generic_switch OFF
VS11 control_S11 0 DC 0
S9 14 21 control_S9 0 generic_switch OFF
VS9 control_S9 0 DC 0
S20 15 19 control_S20 0 generic_switch OFF
VS20 control_S20 0 DC 0
R7 35 32 330

.MODEL generic_switch SW(Ron=1m Roff=1Meg Vt=2.5)

.options savecurrents
.OP
*.TRAN 1ms 100ms
* .AC DEC 100 100 1MEG
.END